US07622469B2
3,6-Dihydro-6,6-dimethyl-4-nonylamino-2-benzylamino-1,3,5-triazine acetate
300 ml of methanol, 250 ml of acetone and 1.2 ml of concentrated hydrochloric acid were added to 18.2 g (46.6 mmol) of N1-benzyl-N5-nonyl-biguanide dihydrochloride. The mixture was refluxed for 22 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in 300 ml of ethanol, and to the solution were added 200 ml of water and 18 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 1.5 hours, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure to obtain 18.9 g of colorless crystals.

reactant | methanol | 300 ml | CO | CH4O
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
reactant | N1-benzyl-N5-nonyl-biguanide dihydrochloride | 46.6 mmol, 18.2 g | Cl.Cl.C(C1=CC=CC=C1)NC(=N)NC(=N)NCCCCCCCCC
reactant | acetone | 250 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-nonylamino-2-benzylamino-1,3,5-triazine acetate | 18.9 g | C(C)(=O)O.CC1(N=C(NC(=N1)NCC1=CC=CC=C1)NCCCCCCCCC)C | InChI=1S/C21H35N5.C2H4O2/c1-4-5-6-7-8-9-13-16-22-19-24-20(26-21(2,3)25-19)23-17-18-14-11-10-12-15-18;1-2(3)4/h10-12,14-15H,4-9,13,16-17H2,1-3H3,(H3,22,23,24,25,26);1H3,(H,3,4)
